US08003800B2
To an ice-cooled solution of 5-ethyl-4-hydroxy-3-methylbenzaldehyde (10.0 g, 60.9 mmol) in DCM (50 mL) and pyridine (15 mL), trifluoromethanesulfonic acid anhydride (18.9 g, 67 mmol) is added over a period of 20 min. Upon complete addition, the ice bath is removed and the reaction is stirred for further 2 h at rt. The mixture is diluted with DCM (150 mL), washed three times with water, dried over MgSO4, filtered and evaporated. The residue is purified by flash chromatography on silica gel eluting with heptane:EA 9:1 to give trifluoro-methanesulfonic acid 2-ethyl-4-formyl-6-methyl-phenyl ester (10.75 g) as a pale yellow oil; LC-MS: tR=1.07 min; 1H NMR (CDCl3): δ 9.98 (s, 1H), 7.70 (s, 1H), 7.66 (s, 1H), 2.85 (q, J=10.1 Hz, 2H), 2.48 (s, 3H), 1.30 (t, J=10.2 Hz, 3H).

reactant | 5-ethyl-4-hydroxy-3-methylbenzaldehyde | 60.9 mmol, 10.0 g | C(C)C=1C(=C(C=C(C=O)C1)C)O | C10H12O2
reactant | trifluoromethanesulfonic acid anhydride | 67 mmol, 18.9 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | trifluoro-methanesulfonic acid 2-ethyl-4-formyl-6-methyl-phenyl ester | 10.75 g | C(C)C1=C(C(=CC(=C1)C=O)C)OS(=O)(=O)C(F)(F)F | C11H11F3O4S
